US08030302B2
6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
To a solution of 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole (5.0 g, 14.2 mmol) in THF (50 mL) is added DHP (2.4 g, 28.5 mmol) and CH3SO3H (1.0 g, 10.4 mmol). The resulting mixture is stirred at RT for 1 hour. Then EtOAc and aqueous NaHCO3 solutions are added. The organic phase is separated, dried over anhydrous MgSO4, filtered and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (5:1) to give the desired product (5.5 g, 89.0% yield). MS (m/z): 436.0 (M+H).

reactant | 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1H-indazole | 14.2 mmol, 5.0 g | BrC1=C(C=C2C=NNC2=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H7BrFN3O3
reactant | DHP | 28.5 mmol, 2.4 g | C1CC=COC1 | C5H8O
reactant | CH3SO3H | 10.4 mmol, 1.0 g | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 5.5 g, 89.0% yield | BrC1=C(C=C2C=NN(C2=C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C18H15BrFN3O4
